US05208230
Dissolve N-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-O-2-propenyl-L-serine, methyl ester (13 g, 29.8 mmol) in methylene chloride/methanol (10:1, 220 mL). Cool to -78° C. and sparge with a mixture of ozone/oxygen for approximately 10 minutes until a blue color persists. Sparge with nitrogen for 10 minutes at -78° C. to remove excess ozone. Treat with methyl sulfide (60 mL, 0.82 mol) and allow to warm to room temperature. Stir at room temperature for 2.5 hours, evaporate the solvent in vacuo and dissolve the residue in ethyl acetate (200 mL). Wash with water, saturated sodium chloride, dry (MgSO4) and evaporate the solvent in vacuo to give the intermediate N-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-O-2-oxoethyl-L-serine, methyl ester as a foam (13.6 g).

reactant | N-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-O-2-propenyl-L-serine, methyl ester | 29.8 mmol, 13 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)N[C@@H](COCC=C)C(=O)OC)CC1=CC=CC=C1 | C24H24N2O6
reactant | methyl sulfide | 0.82 mol, 60 mL | CSC | C2H6S
reactant | methylene chloride methanol | 220 mL | C(Cl)Cl.CO
product | N-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-O-2-oxoethyl-L-serine, methyl ester | 13.6 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)N[C@@H](COCC=O)C(=O)OC)CC1=CC=CC=C1 | C23H22N2O7
